US07323475B2
d) [(4-Hydroxy-1-methoxymethyl-isoquinoline-3-carbonyl)-amino]-acetic acid
A mixture of [(4-benzyloxy-1-methoxymethyl-isoquinoline-3-carbonyl)-amino]-acetic acid benzyl ester (134 mg, 0.285 mmol), Pd/C (100 mg, 10 wt % Pd), EtOAc (10 ml) and MeOH (50 ml) was stirred under a H2-atmosphere at ambient pressure and temperature for 18 h. Then the mixture was filtered through a pad of celite. Celite and filter cake were washed thoroughly with EtOAc and the combined organic phases were concentrated in vacuo to give the title compound as a tan solid (74 mg); MS-(−)-ion: M−1=289.2.

reactant | [(4-benzyloxy-1-methoxymethyl-isoquinoline-3-carbonyl)-amino]-acetic acid benzyl ester | 0.285 mmol, 134 mg | C(C1=CC=CC=C1)OC(CNC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)COC)=O | C28H26N2O5
reactant | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
solvent | MeOH | 50 ml | CO | CH4O
product | [(4-Hydroxy-1-methoxymethyl-isoquinoline-3-carbonyl)-amino]-acetic acid | 74 mg | OC1=C(N=C(C2=CC=CC=C12)COC)C(=O)NCC(=O)O | C14H14N2O5
